US09085588B2
Icotinib (700 mg) and methanol (40 mL) were added into 100 mL of reaction flask, hydrogen chloride gas or concentrated hydrochloric acid was added while stirring. After its completion, the reaction mixture was filtrated to give crude products of Icotinib hydrochloride, which was then purified by recrystallization with isopropanol to give Icotinib hydrochloride (760 mg).

reactant | Icotinib | 700 mg | C#CC=1C=CC=C(C1)NC2=C3C=C4C(=CC3=NC=N2)OCCOCCOCCO4 | C22H21N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | Icotinib hydrochloride | C#CC1=CC(=CC=C1)NC2=NC=NC3=CC4=C(C=C32)OCCOCCOCCO4.Cl | InChI=1S/C22H21N3O4.ClH/c1-2-16-4-3-5-17(12-16)25-22-18-13-20-21(14-19(18)23-15-24-22)29-11-9-27-7-6-26-8-10-28-20;/h1,3-5,12-15H,6-11H2,(H,23,24,25);1H
